US05155236
N-Ethoxycarbonyl-2-ethoxymethylene-3-oxobutanamide (2.3 g) was dissolved in toluene (15 ml) and treated dropwise with 1,1-di-ethoxyprop-1-ene (2 g). The mixture was stirred at 40° C. for 2 hours and evaporated to dryness. The residual oil was purified by medium pressure liquid chromatography on K60 silica using ethyl acetate/petroleum ether b.p. 60°-80° C. 15/85 v/v and 20/80 v/v as eluting solvents, to give after trituration with n-hexane trans-2,2-diethoxy-3,6-dimethyl-4-ethoxy-N-ethoxycarbonyl-3,4-dihydro-2H-pyran5-carboxamide (0.6 g) m.p. 84°-7° C. The n.m.r. spectrum in deuterochloroform displayed the --CH(OEt)-- signal at 3.9 ppm (doublet of quartets, 1H J=3 Hz and 1 Hz), which is indicative of the trans arrangement of the 3 and 4 substituents.

reactant | N-Ethoxycarbonyl-2-ethoxymethylene-3-oxobutanamide | 2.3 g | C(C)OC(=O)NC(C(C(C)=O)=COCC)=O | C10H15NO5
reactant | 1,1-di-ethoxyprop-1-ene | 2 g | C(C)OC(=CC)OCC | C7H14O2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | n-hexane trans-2,2-diethoxy-3,6-dimethyl-4-ethoxy-N-ethoxycarbonyl-3,4-dihydro-2H-pyran5-carboxamide | 0.6 g | C(C)OC1(OC(=C([C@H]([C@@H]1C)OCC)C(=O)NC(=O)OCC)C)OCC.CCCCCC | InChI=1S/C17H29NO7.C6H14/c1-7-21-14-11(5)17(23-9-3,24-10-4)25-12(6)13(14)15(19)18-16(20)22-8-2;1-3-5-6-4-2/h11,14H,7-10H2,1-6H3,(H,18,19,20);3-6H2,1-2H3/t11-,14-;/m0./s1
